US04423047
2-(2-Hydroxy-3-chloropropyl)sulfinyl-5-chloropyrimidine
A solution of 35% H2O2 (1.7 mmol) and SeO2 (1.7 mmol) in water (2.5 ml) was added to a solution of 2-(2-hydroxy-3-chloropropyl)thio-5-chloropyrimidine (1.7 mmol) in methanol (10 ml). The mixture was stirred at room temperature for 18 h before saturated NaCl aq. (40 ml) was added and the mixture extracted with chloroform (3×20 ml). The dried (MgSO4) chloroform solution was evaporated and the residue crystallized from ethyl acetate; yield 59%; m.p. 170° C. 1H NMR (DMSO-d6): δ3.0-4.4 (6H, m), 9.10 (H-4, H-6). IR (KBr): 3400 (OH), 1060-1070 cm-1 (SO).

reactant | H2O2 | 1.7 mmol | OO | H2O2
reactant | 2-(2-hydroxy-3-chloropropyl)thio-5-chloropyrimidine | 1.7 mmol | OC(CSC1=NC=C(C=N1)Cl)CCl | C7H8Cl2N2OS
reactant | NaCl | 40 ml | [Na+].[Cl-]
solvent | water | 2.5 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2-(2-Hydroxy-3-chloropropyl)sulfinyl-5-chloropyrimidine | yield 59% | OC(CS(=O)C1=NC=C(C=N1)Cl)CCl | C7H8Cl2N2O2S
